US05051417
5-(3,6-Dihydro-6-methyl-2-oxo-2H-1,3,4-thiadiazin-5-yl) -1H-indole-2,3-dione 3-[(4-chloro)phenylhydrazone]
Starting from 1,3-dihydro-5-(3,6-dihydro-6-methyl-2-oxo -2H-1,3,4-thiadiazin-5-yl)-3-phenylimino-2H-indol-2-one, and 4-chlorophenyl hydrazine and following the method described in Example 21,the desired compound was obtained.

reactant | 1,3-dihydro-5-(3,6-dihydro-6-methyl-2-oxo -2H-1,3,4-thiadiazin-5-yl)-3-phenylimino-2H-indol-2-one | CC1C(=NNC(S1)=O)C=1C=C2C(C(NC2=CC1)=O)=NC1=CC=CC=C1 | C18H14N4O2S
reactant | 4-chlorophenyl hydrazine | ClC1=CC=C(C=C1)NN | C6H7ClN2
product | 5-(3,6-Dihydro-6-methyl-2-oxo-2H-1,3,4-thiadiazin-5-yl) -1H-indole-2,3-dione 3-[(4-chloro)phenylhydrazone] | Yield: 70% | ClC1=CC=C(C=C1)NN=C1C(NC2=CC=C(C=C12)C1=NNC(SC1C)=O)=O | C18H14ClN5O2S
